US03971803
35.6 g of 5-phenyl-1,3,4-oxadiazole-2-thione (0.2 mol), 41.2 g of 2,6-di-tert.-butylphenol (0.2 mol), 6,6 g of paraformaldehyde (0.22mol) and 0.5 g of hexamethylenetetramine in 130 ml of dimethylformamide and 13 ml of water are heated to 110°C for 7 hours, whilst stirring. After cooling, the reaction mixture is stirred into 500 ml of ice water and the product which precipitates is isolated. For purification, the reaction product is repeatedly digested with methanol, filtered off and dried. 3-(3,5-di-t-Butyl-4-hydroxybenzyl)-5-phenyl-1,3,4-oxadiazole-2-thione (stabiliser N0. 6), thus obtained, has a melting point of 166°C.

reactant | 5-phenyl-1,3,4-oxadiazole-2-thione | 0.2 mol, 35.6 g | C1(=CC=CC=C1)C1=NNC(O1)=S | C8H6N2OS
reactant | 2,6-di-tert.-butylphenol | 0.2 mol, 41.2 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | paraformaldehyde | 0.22mol, 6,6 g | C=O | CH2O
reactant | hexamethylenetetramine | 0.5 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | water | 13 ml | O | H2O
product | 3-(3,5-di-t-Butyl-4-hydroxybenzyl)-5-phenyl-1,3,4-oxadiazole-2-thione | C(C)(C)(C)C=1C=C(CN2C(OC(=N2)C2=CC=CC=C2)=S)C=C(C1O)C(C)(C)C | C23H28N2O2S
